US05006520
By reacting in the same manner as in Example 1, using 4 g of 1-(4-hydroxyphenyl)-3-phenyl-1H-pyrazolo[3,4-b]pyridine and 3.6 g of 3-chloropropanol and recrystallizing the obtained crude crystals from ethyl acetate-isopropyl ether, there was obtained 1-[4-(3-hydroxypropoxy)phenyl]-3-phenyl-1H-pyrazolo[3,4-b]pyridine, m.p. 135°-138° C.

reactant | 1-(4-hydroxyphenyl)-3-phenyl-1H-pyrazolo[3,4-b]pyridine | 4 g | OC1=CC=C(C=C1)N1N=C(C=2C1=NC=CC2)C2=CC=CC=C2 | C18H13N3O
reactant | 3-chloropropanol | 3.6 g | ClCCCO | C3H7ClO
product | ethyl acetate isopropyl ether | C(C)(=O)OCC.C(C)(C)OC(C)C | InChI=1S/C6H14O.C4H8O2/c1-5(2)7-6(3)4;1-3-6-4(2)5/h5-6H,1-4H3;3H2,1-2H3
